US06069156
To a solution of 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxylic acid (150 mg) in dimethylformamide (3 ml) were added 1-hydroxybenzotriazole (102 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (109 mg). After stirred at 20° C. over night, the resulting mixture was poured into 28% aqueous ammonia (5 ml). The mixture was partitioned between ethyl acetate and water, and the organic phase was washed with 1N hydrochloric acid and brine, dried over sodium sulfate and evaporated in vacuo. The crystalline residue was recrystallized from a mixture of ethyl acetate and hexane to give 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxamide (123 mg) as colorless crystals.

reactant | 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxylic acid | 150 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)O)C(C(C)C)=O)CCC)C=CC=C1 | C23H24ClNO3
reactant | 1-hydroxybenzotriazole | 102 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 109 mg | Cl.CN(CCCN=C=NCC)C
reactant | ammonia | 5 ml | N | H3N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxamide | 123 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)N)C(C(C)C)=O)CCC)C=CC=C1 | C23H25ClN2O2
